US04275067
(Z)-(5R)-3-[2-(p-Hydroxyphenylthio)ethylidene]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
(5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0] hept-2-ene (2.5 mmole) in dry tetrahydrofuran (20 ml) was treated with p-mercaptophenol (650 mg) and benzoyl peroxide (10 mg). The resulting solution was stirred under dry nitrogen while being irradiated using a 200 W bulb placed 1" from the reaction vessel for 1 hour. (The temperature of the solution was 25°-30° during this period). The mixture was diluted with ethyl acetate (100 ml) and was washed with water (3×30 ml) and saturated brine (30 ml). The solution was dried (magnesium sulphate) and the solvent was evaporated under reduced pressure to yield a pale yellow gum. The gum was chromatographed on silica gel using ethyl acetate/petroleum ether (b.p. 60°-80°) to give the title compound as a colourless waxy solid (125 mg), [α]D20 =+138.5° (c 1.0, CHCl3), (Found: M+, 263.0585; C13H 13 NO3S requires 263.0616). νmax (CHCl3): 3200, 1790, 1695, 1600, 1580, 1495 cm-1. δ (CDCl3): 2.62 (1H, d, J 16 Hz), 3.10-3.65 (4H, complex), 4.24 (1H, d, J 14 Hz), 4.39 (1H, t, J 7 Hz), 5.25 (1H, d, J 2 Hz), 6.5-6.8 (3H, m), 7.15-7.35 (2H, m). m/e: 263 (M+, 9%), 138 (100), 126 (25), 125 (23), 96 (42).

reactant | (5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0] hept-2-ene | 2.5 mmole | O=C1C[C@H]2OC(=CN12)C=C | C7H7NO2
reactant | p-mercaptophenol | 650 mg | SC1=CC=C(C=C1)O | C6H6OS
reactant | benzoyl peroxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-(5R)-3-[2-(p-Hydroxyphenylthio)ethylidene]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | OC1=CC=C(C=C1)SC\C=C/1\CN2C(C[C@H]2O1)=O | C13H13NO3S
